US06620830B2
[3,5-Dichloro-4-(4-methoxy-phenoxy)-phenyl]-methanol
To a solution of 3,5-dichloro-4-(4-methoxy-phenoxy)-benzoic acid ethyl ester (1.36 g, 4.01 mmol) in dichloromethane (35 ml) at 0° C. was added diisobutylaluminun hydride (1M in toluene, 12 ml, 12 mmol) and the mixture was stirred for 2.5 hours at 0° C. The reaction mixture was quenched with potassium sodium tartrate tetrahydrate (0.5 M aqueous solution, 50 ml), stirred for 20 minutes at room temperature and then was filtered through diatomaceous earth. The filtrate was concentrated and then taken up in water (60 ml). The aqueous solution was extracted with ethyl acetate (4×60 ml). The combined extracts were dried, filtered, and concentrated. The residue was purified by flash column chromatography (2% ethyl acetate in dichloromethane) to afford the title compound (871 mg). NMR (400 MHz, CDCl3) δ7.39 (s, 2H), 6.74-6.82 (m, 4H), 4.69 (d, 2H), 3.76 (s, 3H), 1.83 (t, 1 H).

reactant | 3,5-dichloro-4-(4-methoxy-phenoxy)-benzoic acid ethyl ester | 4.01 mmol, 1.36 g | C(C)OC(C1=CC(=C(C(=C1)Cl)OC1=CC=C(C=C1)OC)Cl)=O | C16H14Cl2O4
reactant | hydride | 12 mmol, 1M, 12 ml | [H-]
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | [3,5-Dichloro-4-(4-methoxy-phenoxy)-phenyl]-methanol | 871 mg | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)Cl)CO | C14H12Cl2O3
